simulator lang=spectre
global 0
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=bjt_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=dio_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=res_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=mim_tt
include "/home/public/PDK/smic/18/SPDK18MSE_1833_OA_CDS_V1.11_4/smic18mse_1833_1P3M_2Ia_1TMa1_MIM10_oa_cds_2019_01_15_v1.11_4/smic18mmrf/../models/spectre/ms018_enhanced_v1p11_spe.lib" section=var_tt

subckt NGCC VINN VINP VOUT IBIAS VDD VSS
NM9 (net041 net035 VSS VSS) n18 w=6.1e-07 l=7e-07 m=1 ////the **Load** transistor of the 2nd stage
NM7 (IBIASP IBIAS VSS VSS) n18 w=2.2e-07 l=1.8e-07 ////bias transistor. should not be changed
NM6 (IBIAS IBIAS VSS VSS) n18 w=2.2e-07 l=1.8e-07  ////bias transistor. should not be changed
NM5 (net020 IBIAS VSS VSS) n18 w=2.4e-07 l=1.9e-07 m=1 ////
NM4 (VOUT net041 VSS VSS) n18 w=6.68e-06 l=1.9e-07 m=1 ////**Input** transistor of the Load stage
NM0 (net27 VINN net26 VSS) n18 w=2.9e-07 l=4.4e-07 m=1 ////**Input** transistor of 1st(gm1) stage ``NM1``
NM8 (net035 net035 VSS VSS) n18 w=2.4e-07 l=2.9e-07 m=1 ////the **Load** transistor of the 2nd stage
NM2 (net26 IBIAS VSS VSS) n18 w=1.52e-06 l=2.19e-06 m=1 ////current tail transistor of the 1st stage
NM1 (net28 VINP net26 VSS) n18 w=2.9e-07 l=4.4e-07 m=1 ////**Input** transistor of 1st(gm1) stage ``NM0``
PM9 (VOUT net28 VDD VDD) p18 w=2.7e-07 l=1.9e-07 m=1 ////the **Input** transistor of gmf2
PM8 (net035 net28 VDD VDD) p18 w=9.2e-07 l=9e-07 m=1 ////**Input** transistor of the 2nd stage
PM7 (net041 IBIASP VDD VDD) p18 w=3.9e-07 l=3.2e-07 m=1 ////**Load** transistor of the 2nd stage
PM6 (IBIASP IBIASP VDD VDD) p18 w=2.2e-07 l=1.8e-07 ////bias transistor. should not be changed
PM5 (VOUT net020 VDD VDD) p18 w=1.918e-05 l=1.9e-07 m=15 ////the Input transistor of the gmf1
PM4 (net020 net020 VDD VDD) p18 w=2.3e-07 l=1.8e-07 m=1 ////
PM3 (net020 net27 VDD VDD) p18 w=2.4e-07 l=1.9e-07 m=1 ////
PM2 (VOUT IBIASP VDD VDD) p18 w=1.073e-05 l=4e-07 m=1 ////**Load** transistor of the Load stage
PM1 (net27 net27 VDD VDD) p18 w=2.4e-07 l=1.21e-06 m=1 ////Load transistor of the 1st stage ``PM0``
PM0 (net28 net27 VDD VDD) p18 w=2.4e-07 l=1.21e-06 m=1 ////**Load** transistor in the 1st stage ``PM1``
C1 (net041 VOUT) capacitor c=8.5e-13 m=1 ////miller cap between the 2nd stage and the output
C0 (net28 VOUT) capacitor c=8.2e-13 m=1 ////miller cap between the 1st stage and the output
ends NGCC



            V0 (VSS 0) vsource dc=0 type=dc
            V1 (VDD 0) vsource dc=1.8 type=dc
            C0 (VOUT VSS) capacitor c=2e-11
            I0 (VDD IBIAS) isource dc=1e-06 type=dc
            V2 (VINP 0) vsource dc=0.9 type=dc
            IPRB0 (VINN VOUT) iprobe
            I1 (VINN VINP VOUT IBIAS VDD VSS) NGCC
            